US06140317
Under a nitrogen atmosphere, 0.5 g (1.82 mmol) of 4-chloro-6-(4-nitro-phenyl)-7H-pyrrolo-[2,3-d]pyrimidine and 0.43 ml (2.1 equivalents) of 2,3-dihydroindole in 10 ml of abs. n-butanol are heated at reflux for 1.5 hours until the starting material is no longer present in TLC, the desired product precipitating out and being filtered off. The brown crude product is stirred thoroughly in about 20 ml of 1N NaOH for about 15 minutes, and the suspension is filtered with suction and the residue is washed with water, n-butanol and hexane and dried under a high vacuum. 4-(2,3-Dihydroindol-1-yl)-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine is obtained in the form of a rust-brown powder having a melting point of>300° C. FAB-MS: (M+H)+ =358 (corresponds to C20H15N5O2); Rf value (toluene-acetone--4:6)=0.40.

reactant | 4-chloro-6-(4-nitro-phenyl)-7H-pyrrolo-[2,3-d]pyrimidine | 1.82 mmol, 0.5 g | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H7ClN4O2
reactant | 2,3-dihydroindole | 0.43 ml, 2.1 equivalents | N1CCC2=CC=CC=C12 | C8H9N
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(2,3-Dihydroindol-1-yl)-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | N1(CCC2=CC=CC=C12)C=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C20H15N5O2
